US07919488B2
4-{5-(4-fluorobenzyl)-1-[1-(1H-imidazol-2-ylcarbonyl)azetidin-3-yl]-1H-pyrazol-3-yl}pyridine
To a suspension of 4-(5-(4-fluorobenzyl)-1-(azetidin-3-yl)-1H-pyrazol-3-yl)pyridine (85 mg, 0.28 mmol) in DMF (3 mL) was added HOBt (45 mg, 0.33 mmol), EDCI (64 mg, 0.33 mmol), NMM (76 μL, 0.69 mmol) followed by imidazole-2-carboxylic acid (34 mg, 0.30 mmol) and the mixture stirred for 16 hours at room temperature. The volatiles were removed in vacuo and the residue purified directly by Biotage flash chromatography, eluting with 2-6% MeOH/DCM to yield a clear gum. Ether was added (5 mL) and the mix sonicated to give a white precipitate that was filtered off, washed with ether and dried in-vacuo to yield the title compound as a white solid, 78 mg, 70%. 1H NMR (400 MHz, DMSO-D6) δ ppm 13.04-13.12 (m, 1 H), 8.54 (d, 2 H), 7.74 (d, 2 H), 7.25-7.32 (m, 2 H), 7.18 (t, 2 H), 7.03-7.12 (m, 1 H), 6.66 (s, 1 H), 5.33-5.46 (m, 1 H), 4.77-4.92 (m, 2 H), 4.26-4.36 (m, 2 H), 4.12 (s, 2 H); m/z (APCI+) for C22H19N6FO 403.1 (M+H)+.

reactant | 4-(5-(4-fluorobenzyl)-1-(azetidin-3-yl)-1H-pyrazol-3-yl)pyridine | 0.28 mmol, 85 mg | FC1=CC=C(CC2=CC(=NN2C2CNC2)C2=CC=NC=C2)C=C1 | C18H17FN4
reactant | HOBt | 0.33 mmol, 45 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI | 0.33 mmol, 64 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | NMM | 0.69 mmol, 76 μL | CN1CCOCC1 | C5H11NO
reactant | imidazole-2-carboxylic acid | 0.30 mmol, 34 mg | N1C(=NC=C1)C(=O)O | C4H4N2O2
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | Ether | CCOCC | C4H10O
product | 4-{5-(4-fluorobenzyl)-1-[1-(1H-imidazol-2-ylcarbonyl)azetidin-3-yl]-1H-pyrazol-3-yl}pyridine | FC1=CC=C(CC2=CC(=NN2C2CN(C2)C(=O)C=2NC=CN2)C2=CC=NC=C2)C=C1 | C22H19FN6O
